US06835732B2
a) 4-Methoxy-7-vinyl-benzothiazol-2-ylamine
(4-Methoxy-7-vinyl-benzothiazol-2-yl)-carbamic acid methyl ester was dissolved in ethylenglycol/2N KOH (2:1) and stirred at 100° C. for 3 hrs. Then water was added and the mixture was extracted with CH2Cl2, the organic phase was washed with brine and dried over MgSO4. After evaporation the residue was crystallized from CH2Cl2. White crystals (64%); F.p.: 155-159° C.

reactant | (4-Methoxy-7-vinyl-benzothiazol-2-yl)-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2C=C)OC)=O | C12H12N2O3S
reactant | water | O | H2O
solvent | ethylenglycol | 2N | C(CO)O | C2H6O2
product | 4-Methoxy-7-vinyl-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C=C | C10H10N2OS
